US06342504B1
Preparation of 2-Fluorobenzyl thiouronium hydrochloride
2-Fluorobenzyl chloride (125 g, 0.86 mole, Aldrich), thiourea (66 g, 0.87 mole) and 200 mL of methanol were refluxed for 2 hours under nitrogen. The reaction was cooled and the volume was reduced to ˜40 mL. The slurry was poured into 1 liter of diethyl ether. The resulting white solid was filtered and dried under vacuum to give 184.5 g (97 %) of the title compound as a white solid.

reactant | 2-Fluorobenzyl chloride | 0.86 mole, 125 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | thiourea | 0.87 mole, 66 g | NC(=S)N | CH4N2S
reactant | methanol | 200 mL | CO | CH4O
solvent | diethyl ether | 1 liter | C(C)OCC | C4H10O
product | 2-Fluorobenzyl thiouronium hydrochloride | 184.5 g, 97 % | Cl.FC1=C(C[NH+]=C(S)N)C=CC=C1 | InChI=1S/C8H9FN2S.ClH/c9-7-4-2-1-3-6(7)5-11-8(10)12;/h1-4H,5H2,(H3,10,11,12);1H/p+1
